US09079865B2
In a 50-mL, 3-necked, round-bottomed flask charged with a solution of (Z)-3-(3-(4-chloro-3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.8 g) in 1:1 EtOAc:THF (20 mL). The solution was cooled to −70° C. and treated sequentially with 2-hydrazinopyrazine (0.275 g, 1.2 eq.), T3P (50% in EtOAc; 2.5 mL, 2.0 eq.) and DIPEA (1.44 mL, 4.0 eq.), added dropwise. The clear reaction mixture was stirred at −60° C. for 1 h before being concentrated under reduced pressure (25° C., 20 mm Hg) to afford crude compound. Purification by column chromatography using (60/120 mesh SiO2, elution with 3-4% MeOH in CH2Cl2) afforded 0.30 g (yield: 30%) (Z)-3-(3-(4-chloro-3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(pyrazin-2-yl)acrylohydrazide. 1H NMR (400 MHz, DMSO-d6) 8=10.53 (s, 1H), 9.58 (s, 1H), 9.11 (s, 1H), 8.47 (s, 1H), 8.32 (s, 1H), 8.13 (s, 1H), 8.06 (s, 1H), 7.97 (s, 1H), 7.52-7.55 (d, J=10.4 Hz, 1H), 6.08-6.11 (d, J=10.4 Hz, 1H); LCMS for C17H11ClF6N7O [M+H]+ 478.76 found 478.1 (RT 2.64 min, purity: 100%).

reactant | (Z)-3-(3-(4-chloro-3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.8 g | ClC1=C(C=C(C=C1C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)C(F)(F)F | C13H6ClF6N3O2
reactant | 2-hydrazinopyrazine | 0.275 g, 1.2 eq. | N(N)C1=NC=CN=C1 | C4H6N4
reactant | T3P | 2.5 mL, 2.0 eq. | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 1.44 mL, 4.0 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (Z)-3-(3-(4-chloro-3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(pyrazin-2-yl)acrylohydrazide | 0.30 g, yield: 30% | ClC1=C(C=C(C=C1C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NNC1=NC=CN=C1)C(F)(F)F | C17H10ClF6N7O
